US07872014B2
To a mixture of methyl 3,4-dihydroxybenzoate (1.0 g, 6.0 mmol), potassium carbonate (3.3 g, 23.8 mmol) and acetonitrile (30 mL) was added 1-bromo-2-(methyloxy)ethane(1.7 mL, 17.9 mmol). The resulting mixture was heated at reflux 18 hour. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (100 mL), filtered and concentrated. The residue was then diluted with ethyl acetate (100 mL) and washed with 5% sodium hydroxide solution, water and brine (100 mL each), dried over sodium sulfate, filtered and concentrated to give an oily residue which was purified by flash chromatography (silica gel, 30%-50% ethyl acetate-hexane) to provide methyl 3,4-bis{[2-(methyloxy)ethyl]oxy}benzoate (1.1 g, 3.9 mmol, 65% yield). 1H NMR (400 MHz, CDCl3): 7.65-7.63 (d, 1H), 7.55 (s, 1H), 6.90-6.88 (d, 1H), 4.21-4.18 (m, 4H), 3.87 (s, 3H), 3.80-3.77 (m, 4H), 3.45 (s, 6H).

reactant | methyl 3,4-dihydroxybenzoate | 6.0 mmol, 1.0 g | OC=1C=C(C(=O)OC)C=CC1O | C8H8O4
reactant | potassium carbonate | 23.8 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
reactant | 1-bromo-2-(methyloxy)ethane | 17.9 mmol, 1.7 mL | BrCCOC | C3H7BrO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3,4-bis{[2-(methyloxy)ethyl]oxy}benzoate | 3.9 mmol, 1.1 g, 65% yield | COCCOC=1C=C(C(=O)OC)C=CC1OCCOC | C14H20O6
